US06281227B1
A. [1-(2-Chloro-quinolin-5-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester
The title compound is prepared from (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester as described in EXAMPLE 1, Part H using a 2:1 mixture of 5-bromomethyl-2-chloro-quinoline to 7-bromomethyl-2-chloro-quinoline, as prepared in EXAMPLE 15, Part C, in place of 7-bromomethyl-1-chloro-isoquinoline. The crude product mixture is purified by column chromatography eluting with 1% MeOH in 25% EtOAc/CH2Cl2 to afford as the major product the title compound as a beige solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 5-bromomethyl-2-chloro-quinoline | BrCC1=C2C=CC(=NC2=CC=C1)Cl | C10H7BrClN
reactant | 7-bromomethyl-2-chloro-quinoline | BrCC1=CC=C2C=CC(=NC2=C1)Cl | C10H7BrClN
reactant | 7-bromomethyl-1-chloro-isoquinoline | BrCC1=CC=C2C=CN=C(C2=C1)Cl | C10H7BrClN
product | [1-(2-Chloro-quinolin-5-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=C2C=CC(=NC2=CC=C1)Cl)=O)=O | C19H22ClN3O3
